US07268230B2
Using an analogous procedure to that described for the preparation of the starting material in Example 11, tert-butyl 4-[3-(4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxyquinazoline-7-yloxy)propyl]piperazine-1-carboxylate was reacted with hydrogen chloride in dioxane. The crude product was absorbed onto an Isolute SCX column, washing with methanol and eluting with 7N ammonia in methanol to give 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-(3-piperazin-1-ylpropoxy)quinazoline (96%) as a pale orange foam.

reactant | tert-butyl 4-[3-(4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxyquinazoline-7-yloxy)propyl]piperazine-1-carboxylate | FC1=C2C=C(NC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCN(CC1)C(=O)OC(C)(C)C)C | C30H36FN5O5
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxy-7-(3-piperazin-1-ylpropoxy)quinazoline | 96% | FC1=C2C=C(NC2=CC=C1OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCNCC1)C | C25H28FN5O3
